US05633248
To 200 ml of a solution of 3.36 g of 3,4-dihydrospiro[naphthalene-2(1H),2'-piperidin]-1-one in methylene chloride was added 2.6 g of potassium carbonate. Then, 50 ml of a solution of trifluoroacetic anhydride (3.4 ml) in methylene chloride was added dropwise at 0° C. and the mixture was stirred for 3 hours. This reaction mixture was diluted with water and extracted with methylene chloride. The methylene chloride layer was dried over anhydrous magnesium sulfate and filtered and the solvent was distilled off. The group was purified by silica gel column chromatography using ethyl acetate-hexane (1:2) as the eluent and the active fraction was concentrated under reduced pressure. The solid group was recrystallized from ethyl acetate-hexane to provide 4.86 g of 1'-trifluoroacetyl-3,4-dihydrospiro[naphthalene-2(1H),2'-piperidin]-1-one as colorless needles.

reactant | 3,4-dihydrospiro[naphthalene-2(1H),2'-piperidin]-1-one | 3.36 g | N1C2(CCCC1)C(C1=CC=CC=C1CC2)=O | C14H17NO
reactant | potassium carbonate | 2.6 g | C([O-])([O-])=O.[K+].[K+]
reactant | trifluoroacetic anhydride | 3.4 ml | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
solvent | water | O | H2O
product | 1'-trifluoroacetyl-3,4-dihydrospiro[naphthalene-2(1H),2'-piperidin]-1-one | 4.86 g | FC(C(=O)N1C2(CCCC1)C(C1=CC=CC=C1CC2)=O)(F)F | C16H16F3NO2
